data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-C(C)C_2-Cl_3-I_4-[N+](=O)[O-]","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["C(C)CNC(=O)C(Cl)(I)Oc1ccc([N+](=O)[O-])cc1","CC[O-]"],"products_smiles": ["C(C)CN(c1ccc([N+](=O)[O-])cc1)C(=O)C(Cl)(I)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)C[N-]C(=O)C(Cl)(I)Oc1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC([N+](=O)[O-])=C1)OC(Cl)(I)C(N2C(C)C)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)CN(c1ccc([N+](=O)[O-])cc1)C(=O)C(Cl)(I)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)CN(c1ccc([N+](=O)[O-])cc1)C(=O)C(Cl)(I)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
